2130-10-24 07:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - pt was placed on CIWA protocol: received 39 mg IV ativan
   and  25 mg IV Valium total, CIWA >20s
   - around 8pm, pulled out Foley, was bleeding, it was replaced
   - around 9pm, Code Purple was called -> was restrained
   Allergies:
   Penicillins
   Rash; Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2130-10-24**] 01:47 AM
   Lorazepam (Ativan) - [**2130-10-24**] 06:44 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-10-24**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.6
C (97.8
   HR: 116 (92 - 135) bpm
   BP: 135/88(100) {122/68(84) - 153/116(121)} mmHg
   RR: 19 (14 - 33) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                  2,875 mL
                                                                    881 mL
   PO:
             TF:
   IVF:
                                                                    875 mL
                                                                    881 mL
   Blood products:
   Total out:
                                                                  1,520 mL
                                                                    720 mL
   Urine:
                                                                  1,520 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,355 mL
                                                                    163 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   General: in 4pt restraints, NAD
   HEENT: Several small abraisons on face, no scalp tenderness, sclera
   anicteric, MM dry, oropharynx clear
   Lungs: CTAB, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, no murmurs, rubs.
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding
   GU: foley in place
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   89 K/uL
   11.4 g/dL
   88 mg/dL
   0.9 mg/dL
   22 mEq/L
   3.9 mEq/L
   17 mg/dL
   105 mEq/L
   139 mEq/L
   33.5 %
   6.1 K/uL
        [image002.jpg]
                             [**2130-10-23**]  06:27 PM
   WBC
   6.1
   Hct
   33.5
   Plt
   89
   Cr
   0.9
   Glucose
   88
   Other labs:
   CK: 3042
   PT / PTT / INR:13.4/25.0/1.1,
   ALT / AST:387/401, Alk Phos / T Bili:62/0.8,
   Amylase / Lipase:/34, Albumin:4.3 g/dL,
   Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Serum EtOH
   79
   Serum ASA, Acetmnphn, [**Last Name (LF) 1556**], [**First Name3 (LF) **], Tricyc
   Negative
   Comments:
   Positive Tricyclic Results Represent Potentially Toxic
   Levels;Therapeutic Tricyclic Levels Will Typically Have Negative
   Results
   Urine Benzos, Barbs, Opiates, Cocaine, Amphet, Mthdne
   Negative
   Source: Catheter
   Color
   Yellow
   Appear
   Clear
   SpecGr
   1.016
   pH
   5.0
   Urobil
   Neg
   Bili
   Neg
   Leuk
   Lg
   Bld
   Lg
   Nitr
   Neg
   Prot
   Tr
   Glu
   Neg
   Ket
   40
   RBC
   64
   WBC
   37
   Bact
   Few
   Yeast
   None
   Epi
   0
   Other Urine Counts
   Mucous: Rare
   Color
   Yellow
   Appear
   Clear
   SpecGr
   1.008
   pH
   5.0
   Urobil
   Neg
   Bili
   Neg
   Leuk
   Neg
   Bld
   Sm
   Nitr
   Neg
   Prot
   Tr
   Glu
   Neg
   Ket
   Neg
   RBC
   0-2
   WBC
   [**4-13**]
   Bact
   Mod
   Yeast
   None
   Epi
   0-2
   Micro:
   Urine cx pending
   MRSA pending
   Imaging:
   CT head w/o contrast here and at [**Hospital1 17**]: prelim:no acute intracranial
   process.
   CT c-cpine ([**10-23**]): prelim no acute fracture
   RUQ U/s([**10-21**]):
   1. Diffusely echogenic liver, consistent with fatty infiltration. Note
   that coexisting forms of hepatic disease such as cirrhosis are not
   excluded.
   2. No evidence of cholecystitis.
   Assessment and Plan
   47 year old male who was recently hospitalized for ETOH withdrawl,
   seizures, transaminitis, possible pancreatitis and left AMA late last
   night who was readmitted to [**Hospital1 17**] this morning with altered mental
   status, blood alcohol level >100 and transferred for management of
   presumed alcohol withdrawl.
   .
   # Altered mental status: Per report patient delerius this morning.
   Given that he was only out of the hospital for several hours, this was
   most likely due to intoxication rather than ETOH withdrawl(urine and
   serum tox o/w negative.  However, the patient also has history of
   seizure and CVA w/known PFO (not anticoagulated) and transaminitis
   which could all cause AMS.  CVA less likely  as his neuro exam is
   non-focal except for mildly deficient strength in his left arm which
   chronic.  Seizure also less likely to be responsible for entire picture
   as would expect patient's delirium to have resolved.
   -CIWA scale with Ativan given LFT abnormalities
   -Thiamine, Folate, MVI
   -f/u final read of head CT given
   -Continue Keppra and Lamictal as outlined per neuro during previous
   admission
   -Neuro Consult in AM
   -Check LFTs
   -If patient worsening or developing focal neurologic signs, could
   consider MRI head.
   .
   # Throbocytopenia: Patient intermittently thrombocytopenic over the
   last year, associated occasionally with lymphopenia, though now just
   thrombocytopenia.  Most likely related to ETOH, as no apparent
   medication effect temporally.  Also unlikely HIT/heparin antibodies as
   not temporally related to admissions but need to assess further when he
   actually received heparin products.
   -daily plt
   -pneumoboots for now pending investigation into timing of heparin
   .
   # Transaminitis:During previous admission, LFTs trended down when
   patient not drinking, simvastatin held.  Hep serologies are negative,
   HIV negative, RUQ U/S with fatty infiltrate but no other abnormality.
   -hold remeron for now, continue to hold simvastatin.
   -check LFTs today, if trending down most likely [**3-13**] simvastatin
   -if trending up could be related to ETOH use, medication effect
   .
   # Increased Lipase: Lipase 70 when patient left hospital.  Patient
   denies nausea, vomiting, abdominal pain.
   -recheck Lipase
   -NPO for now pending lipase, can likely advance diet if lipase trending
   down.
   .
   # Tachycardia: Likely related to agitation/ETOH withdrawl, but patient
   with dry MM, so ? volume depletion:
   -bolus NS
   -125 cc/hr IVF
   -EKG when patient calm
   .
   # History of PFO: Patient seen by cardiology in [**Month (only) **], and they
   recommended full dose aspirin but no further intervention unless
   patient has a second stroke.
   .
   # Non-displaced fracture of the proximal radius: Found at last
   admission, per report ?ortho did a nerve block at this time.  Patient
   without complain of arm pain today.
   .
   #History of pyomyositis/clavicular osteo: Patient completed 6 week
   course of Vanco on [**2130-10-6**], currently stable.  If patient spikes fever
   would consider this source.
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:
   Lines:
   20 Gauge - [**2130-10-23**] 05:27 PM
   Prophylaxis:
   DVT:  pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: clinical improvement

2130-10-25 07:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - neuro recs: no EEG indicated, keppra is a good choice for him but
   need to watch his mood as keppra can affect mood, increase keppra dose
   to 1000mg [**Hospital1 **] tomorrow, keep lamictal at the current dose, use benzo
   prn, neuro will make outpatient appointment for him
   - CIWA: written valium PO PRN q2h. At 1AM, increasingly agitated, so
   temporarily switched to q1h. IV ativan PRN q2h.  Also given zyprexa 5mg
   X 1.
   - f/u final head CT: no acute process.  Therefore, heparin was started.
   - f/u final c spine read: no acute process
   - f/u urine cx: no growth
   - started maintenance fluids: 125cc/h D5W 1/2NS
   Allergies:
   Penicillins
   Rash; Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2130-10-24**] 11:20 AM
   Pantoprazole (Protonix) - [**2130-10-24**] 07:40 PM
   Lorazepam (Ativan) - [**2130-10-24**] 11:47 PM
   Heparin Sodium (Prophylaxis) - [**2130-10-25**] 06:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-10-25**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.8
C (98.2
   HR: 97 (84 - 126) bpm
   BP: 132/80(93) {105/70(78) - 160/100(111)} mmHg
   RR: 15 (8 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  3,114 mL
                                                                    890 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                  2,994 mL
                                                                    890 mL
   Blood products:
   Total out:
                                                                  1,735 mL
                                                                    770 mL
   Urine:
                                                                  1,735 mL
                                                                    770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,379 mL
                                                                    120 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///19/
   Physical Examination
   General: in 4pt restraints, NAD
   HEENT: Several small abraisons on face, no scalp tenderness, sclera
   anicteric, MM dry, oropharynx clear
   Lungs: CTAB, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, no murmurs, rubs.
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding
   GU: foley in place
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   88 K/uL
   10.8 g/dL
   140 mg/dL
   0.7 mg/dL
   19 mEq/L
   3.5 mEq/L
   9 mg/dL
   103 mEq/L
   135 mEq/L
   31.1 %
   5.5 K/uL
        [image002.jpg]
                             [**2130-10-23**]  06:27 PM
                             [**2130-10-25**]  03:57 AM
   WBC
   6.1
   5.5
   Hct
   33.5
   31.1
   Plt
   89
   88
   Cr
   0.9
   0.7
   Glucose
   88
   140
   Other labs:
   ALT / AST:289/281, Alk Phos / T Bili:55/0.8,
   Albumin:4.3 g/dL, LDH:454 IU/L,
   Ca++:9.1 mg/dL, Mg++:1.7 mg/dL, PO4:2.5 mg/dL
   Micro:
   Urine cx neg
   MRSA pnd
   Assessment and Plan
   47 year old male who was recently hospitalized for ETOH withdrawl,
   seizures, transaminitis, possible pancreatitis and left AMA late last
   night who was readmitted to [**Hospital1 17**] this morning with altered mental
   status, blood alcohol level >100 and transferred for management of
   presumed alcohol withdrawl.
   .
   # Altered mental status: most likely due to ETOH withdrawl that he
   didn
t finish during last admission when he left AMA.  Also, with pt
   h/o seizure and stroke,  both could also cause AMS.  Stroke is unlikley
   bc neuro exam intact eexcept for chronic weakness in left arm s/p
   infection there. Seizure also less likely bc pt
s AMS persisted too
   long.
   -continue CIWA scale with Ativan IV PRN for now, will consider
   switching to PO Valium longer coverage
   -f/u final read of head CT, CT C-spine
   -Continue Keppra and Lamictal as outlined per neuro during previous
   admission, however Neuro saw pt this AM and will return with final recs
   regarding this meds and doses
   -f/u Neuro recs: current symptoms not liely from h/o of stroke, agree
   with treatment of ETOH withdrawal, Keppra can be given IV if PO not
   tolerated
   -If patient worsening or developing focal neurologic signs, could
   consider MRI head.
   .
   # Thrombocytopenia: Patient intermittently thrombocytopenic over the
   last year. Most likely related to ETOH.  HIT also on diff however
   unlikely bc not correlating to Heparin exposure and clinically no signs
   of clotting, etc.
   -monitor daily plt
   -SC heparin for DVT ppx initially held, however will start today
   .
   # Elev CK: Likely [**3-13**] to immobilization or injury from ETOH
   abuse/withdrawal.  Hypothyroidism is a possible cause as well, however
   TSH wnl recently.
   - trend CK
   - continue aggressive hydration with IVF
   .
   # Transaminitis: During Likely [**3-13**] ETOH abuse.  Hep serologies indicate
   pt is HCV positive. Pt is HIV negative. Recent RUQ U/S with fatty
   infiltrate but no other abnormality.
   -hold remeron and simvastatin for now
   -check daily LFTs
   -order viral HCV load and consider liver c/s or give pt outpt f/u
   .
   # Increased Lipase: Lipase 70 when patient left hospital.  Currently
   resolved.
   .
   # Tachycardia: Likely related to agitation/ETOH withdrawl, but patient
   with dry MM, so could also be volume depletion.
   -continue IVF
   -EKG when patient calm
   .
   # History of PFO:  stable
   - continue full dose aspirin
   .
   # Non-displaced fracture of the proximal radius: Found at last
   admission, per report ?ortho did a nerve block at this time.
   -pt not complaining of any pain
   .
   #History of pyomyositis/clavicular osteo: Patient completed 6 week
   course of Vanco on [**2130-10-6**], currently stable.  If patient spikes fever
   would consider this source.
   ICU Care
   Nutrition: NPO except meds
   Glycemic Control:  none
   Lines:
   20 Gauge - [**2130-10-25**] 05:39 AM
   Prophylaxis:
   DVT: pneumoboots, SC heparin
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: ICU for now pending improvement of ETOH withdrawal

2130-10-25 11:00:00 Physician Attending Progress Note
Chief Complaint: EtOH intoxication
   EtOH withdrawl
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Improved response from CIWA scale
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Penicillins
   Rash; Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2130-10-24**] 11:20 AM
   Pantoprazole (Protonix) - [**2130-10-24**] 07:40 PM
   Lorazepam (Ativan) - [**2130-10-24**] 11:47 PM
   Heparin Sodium (Prophylaxis) - [**2130-10-25**] 06:08 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-10-25**] 10:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.8
C (98.2
   HR: 84 (84 - 115) bpm
   BP: 110/66(74) {105/66(74) - 160/97(107)} mmHg
   RR: 16 (8 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  3,114 mL
                                                                  1,365 mL
   PO:
                                                                    120 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  2,994 mL
                                                                  1,215 mL
   Blood products:
   Total out:
                                                                  1,735 mL
                                                                  1,230 mL
   Urine:
                                                                  1,735 mL
                                                                  1,230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,379 mL
                                                                    135 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///19/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic, no change abrasions
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Clear : )
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.8 g/dL
   88 K/uL
   140 mg/dL
   0.7 mg/dL
   19 mEq/L
   3.5 mEq/L
   9 mg/dL
   103 mEq/L
   135 mEq/L
   31.1 %
   5.5 K/uL
        [image002.jpg]
                             [**2130-10-23**]  06:27 PM
                             [**2130-10-25**]  03:57 AM
   WBC
   6.1
   5.5
   Hct
   33.5
   31.1
   Plt
   89
   88
   Cr
   0.9
   0.7
   Glucose
   88
   140
   Other labs: PT / PTT / INR:13.4/25.0/1.1, CK / CKMB /
   Troponin-T:3042//, ALT / AST:289/281, Alk Phos / T Bili:55/0.8, Amylase
   / Lipase:/34, Albumin:4.3 g/dL, LDH:454 IU/L, Ca++:9.1 mg/dL, Mg++:1.7
   mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   47 yo male with history of EtOH abuse and withdrawl as well as CVA and
   clear seizure history with active seizures outside of withdrawl state.
   1)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   -Thiamine/Folate
   -Valium per CIWA
   2)Seizure Disorder-
   -Keppra
   -Lamictal
   3)CVA-
   -ASA
   ICU Care
   Nutrition: po when alert
   Glycemic Control:
   Lines:
   20 Gauge - [**2130-10-25**] 05:39 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2130-10-26 07:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - pt had a pretty uneventful day and night. UOP low at 25cc/hr at
   4:30am, so given 500cc NS bolus, another 1000cc at 6 am.
   Allergies:
   Penicillins
   Rash; Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-10-25**] 08:07 PM
   Heparin Sodium (Prophylaxis) - [**2130-10-26**] 06:06 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-10-26**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.3
C (97.4
   HR: 74 (74 - 98) bpm
   BP: 109/73(81) {96/62(71) - 143/93(101)} mmHg
   RR: 16 (11 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  2,660 mL
                                                                  1,740 mL
   PO:
                                                                    660 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  2,000 mL
                                                                  1,500 mL
   Blood products:
   Total out:
                                                                  2,630 mL
                                                                    245 mL
   Urine:
                                                                  2,630 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     30 mL
                                                                  1,495 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///18/
   Physical Examination
   General: in 4pt restraints, NAD, oriented to person and place, not time
   HEENT: Several small abraisons on face
   Lungs: CTAB, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, no murmurs, rubs.
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding
   GU: foley in place
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   129 K/uL
   11.3 g/dL
   101 mg/dL
   0.9 mg/dL
   18 mEq/L
   3.7 mEq/L
   8 mg/dL
   106 mEq/L
   139 mEq/L
   33.7 %
   5.0 K/uL
        [image002.jpg]
                             [**2130-10-23**]  06:27 PM
                             [**2130-10-25**]  03:57 AM
                             [**2130-10-26**]  04:17 AM
   WBC
   6.1
   5.5
   5.0
   Hct
   33.5
   31.1
   33.7
   Plt
   89
   88
   129
   Cr
   0.9
   0.7
   0.9
   Glucose
   88
   140
   101
   Other labs:
   CK: 1163
   ALT / AST:273/223, Alk Phos / T Bili:58/0.7,
   Amylase / Lipase:/34, Albumin:4.3 g/dL, LDH:358 IU/L,
   Ca++:9.1 mg/dL, Mg++:1.9 mg/dL, PO4:3.7 mg/dL
   Micro:
   Urine cx neg
   MRSA pnd
   Assessment and Plan
   47 year old male who was recently hospitalized for ETOH withdrawl,
   seizures, transaminitis, possible pancreatitis and left AMA late last
   night who was readmitted to [**Hospital1 17**] this morning with altered mental
   status, blood alcohol level >100 and transferred for management of
   presumed alcohol withdrawl.
   .
   # Altered mental status: most likely due to ETOH withdrawl that he
   didn
t finish during last admission when he left AMA.  Also, with pt
   h/o seizure and stroke,  both could also cause AMS.  Stroke is unlikley
   bc neuro exam intact eexcept for chronic weakness in left arm s/p
   infection there. Seizure also less likely bc pt
s AMS persisted too
   long.
   -continue CIWA scale with 10mg PO Vlaium q2h and Ativan IV PRN for now
   -per Neuro: increase keppra to 1000mg [**Hospital1 **], cont lamictal at current
   dose of 200mg daily and f/u level from [**10-20**]. ativan IV prn seizure >5
   min or seizure cluster. avoid medications that may reduce his seizure
   threshold (i.e., fluoroquinolones, flagyl, antipsychotics). would
   prefer zyprexa or seroquel over halodol if needed for agitation.
   - neuro made an outpatient appt for pt on [**11-24**] at 1:30pm
   - f/u any new Neuro recs
   .
   # Thrombocytopenia: Patient intermittently thrombocytopenic over the
   last year. Most likely related to ETOH.
   -monitor daily plt and any signs of acute bleeding
   .
   # Elev CK: Likely [**3-13**] to injury/ETOH.  Hypothyroidism is a possible
   cause as well, however TSH wnl recently.
   - CK trending down
   - continue hydration with IVF PRN
   .
   # Transaminitis: During Likely [**3-13**] ETOH abuse.  Hep serologies indicate
   pt is HCV positive. Pt is HIV negative. Recent RUQ U/S with fatty
   infiltrate but no other abnormality.
   -hold remeron and simvastatin for now
   -check daily LFTs
   -pt to f/u with liver as outpatient
   .
   # Increased Lipase: Lipase 70 when patient left hospital.  Currently
   resolved.
   .
   # History of PFO:  stable
   - continue full dose aspirin
   .
   # Non-displaced fracture of the proximal radius: Found at last
   admission, per report ?ortho did a nerve block at this time.
   -pt not complaining of any pain currently
   .
   #History of pyomyositis/clavicular osteo: Patient completed 6 week
   course of Vanco on [**2130-10-6**], currently stable.  If patient spikes fever
   would consider this source.
   ICU Care
   Nutrition: clear liquids
   Glycemic Control:
   Lines:
   20 Gauge - [**2130-10-25**] 05:39 AM
   Prophylaxis:
   DVT: pneumoboots, SC heparin
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: call out to floor today

2130-10-26 12:45:00 Physician Attending Progress Note
Chief Complaint: EtoH Intoxication
   EtOH Withdrawl
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Patient with some improved mental status and less agitation
   acutely--in addition he has had some decrase in HR and blood pressure
   -Mild oliguria this morning
   -CK has decreased this morning
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Penicillins
   Rash; Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-10-25**] 08:07 PM
   Heparin Sodium (Prophylaxis) - [**2130-10-26**] 06:06 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2130-10-26**] 12:43 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.1
C (97
   HR: 92 (74 - 98) bpm
   BP: 118/85(93) {96/62(71) - 131/93(101)} mmHg
   RR: 17 (11 - 23) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  2,660 mL
                                                                  1,980 mL
   PO:
                                                                    660 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  2,000 mL
                                                                  1,500 mL
   Blood products:
   Total out:
                                                                  2,630 mL
                                                                    645 mL
   Urine:
                                                                  2,630 mL
                                                                    645 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     30 mL
                                                                  1,335 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///18/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Oriented (to): Person, Place, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   11.3 g/dL
   129 K/uL
   101 mg/dL
   0.9 mg/dL
   18 mEq/L
   3.7 mEq/L
   8 mg/dL
   106 mEq/L
   139 mEq/L
   33.7 %
   5.0 K/uL
        [image002.jpg]
                             [**2130-10-23**]  06:27 PM
                             [**2130-10-25**]  03:57 AM
                             [**2130-10-26**]  04:17 AM
   WBC
   6.1
   5.5
   5.0
   Hct
   33.5
   31.1
   33.7
   Plt
   89
   88
   129
   Cr
   0.9
   0.7
   0.9
   Glucose
   88
   140
   101
   Other labs: PT / PTT / INR:13.4/25.0/1.1, CK / CKMB /
   Troponin-T:1163//, ALT / AST:273/223, Alk Phos / T Bili:58/0.7, Amylase
   / Lipase:/34, Albumin:4.3 g/dL, LDH:358 IU/L, Ca++:9.1 mg/dL, Mg++:1.9
   mg/dL, PO4:3.7 mg/dL
   Fluid analysis / Other labs: AG-15
   Microbiology: Urine Culture-negative
   Assessment and Plan
   47 yo patient with history of EtOH abuse and EtOH withdrawl as well as
   an independent history of seizure disorder now admitted with acute
   intoxication and has been supported through withdrawl with CIWA scale
   guided dosing of Valium with better response seen to Valium than Ativan
   interestingly.
   1) ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)-
   -Continue with Thiamine/Folate
   -Continue with CIWA scale guided valium dosing
   -will have to clarify any desire for detox and systematic approach to
   discontinuation of EtOH abuse.
   2)Seizure Disorder-
   Patient with signfiicant seizure disorder outside of EtOH withdrawl
   -Continue with seizure meds as defined by neurology consult service
   (Lamictal/Keppra)
   ICU Care
   Nutrition: PO diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2130-10-25**] 05:39 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 40 minutes